US07125901B2
A mixture of (2-(acetylamino)-1,3-thiazol-4-yl)methyl acetate (46 g) and potassium carbonate (30 g) in methanol (640 ml) was stirred for 3 hours at ambient temperature. The reaction mixture was concentrated in vacuo. The residue was diluted with chloroform, and the insoluble material was filtered off. The resulting solution was purified by flash column chromatography on silica-gel with methanol/chloroform (1/99). The resulted solid was collected by filtration with isopropyl ether to give N-(4-(hydroxymethyl)-1,3-thiazol-2-yl)acetamide (35 g) as white crystals.

reactant | (2-(acetylamino)-1,3-thiazol-4-yl)methyl acetate | 46 g | C(C)(=O)OCC=1N=C(SC1)NC(C)=O | C8H10N2O3S
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 640 ml | CO | CH4O
product | N-(4-(hydroxymethyl)-1,3-thiazol-2-yl)acetamide | 35 g | OCC=1N=C(SC1)NC(C)=O | C6H8N2O2S
